US09062076B2
To a stirred solution of methyl 2-(5,6-dimethoxy-1H-benzo[d]imidazole-2-carboxamido)benzoate (200 mg, 0.56 mmol) in THF (10 mL) and MeOH (5 mL) was added 2N NaOH solution (1.4 mL) dropwise. The resulting mixture was stirred at room temperature for 2 hours. The reaction was quenched by addition of 1N HCl solution and extracted with DCM. The organic layer was washed with brine, dried over sodium sulfate and concentrated to give 2-(5,6-dimethoxy-1H-benzo[d]imidazole-2-carboxamido)benzoic acid (90 mg, 47.1%). 1H-NMR (400 MHz, DMSO-d6) δ 3.82 (s, 6H), 6.97 (s, 1H), 7.13-7.34 (m, 2H), 7.64 (m, 1H), 8.08 (d, J=9.6 Hz, 1H), 8.78 (d, J=7.6 Hz; 1H), 12.90 (s, 1H), 13.27 (s, 1H); LC-MS (ES-API); rt 8.74 min; m/z calculated for C17H15N3O5 [M−H]− 340.1, found 340.1.

reactant | methyl 2-(5,6-dimethoxy-1H-benzo[d]imidazole-2-carboxamido)benzoate | 0.56 mmol, 200 mg | COC1=CC2=C(NC(=N2)C(=O)NC2=C(C(=O)OC)C=CC=C2)C=C1OC | C18H17N3O5
reactant | NaOH | 2N, 1.4 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(5,6-dimethoxy-1H-benzo[d]imidazole-2-carboxamido)benzoic acid | 90 mg, 47.1% | COC1=CC2=C(NC(=N2)C(=O)NC2=C(C(=O)O)C=CC=C2)C=C1OC | C17H15N3O5
